### PR TITLE
Add a couple lemmas about product in Data.List.Properties

### PR DESCRIPTION
**Pull request by dolio**
These are a couple of lemmas I found useful when trying to formalize Euclid's proof of the infinitude of primes.
- the product of non-zero naturals is non-zero
-  any element of a list of non-zero naturals is less-or-equal to the product of the list

Hopefully I didn't just miss these somewhere else, but the divisibility result above this was about the only theorem I could find about `product`.

### CODE REVIEW

File: src/Data/List/Properties.agda [hunk 1]
```diff
@@ -842,6 +842,19 @@ sum-++ (x ∷ xs) ys = begin
 ∈⇒∣product {n} {n ∷ ns} (here  refl) = divides (product ns) (*-comm n (product ns))
 ∈⇒∣product {n} {m ∷ ns} (there n∈ns) = ∣n⇒∣m*n m (∈⇒∣product n∈ns)
 
+nonZero-product : ∀ {ns} → All NonZero ns → NonZero (product ns)
+nonZero-product [] = _
+nonZero-product (nzn ∷ nzns) = m*n≢0 _ _ ⦃ nzn ⦄ ⦃ nonZero-product nzns ⦄
+
+∈⇒≤product : ∀ {n ns} → n ∈ ns → All NonZero ns → n ≤ product ns
+∈⇒≤product {n} {n ∷ ms} (here  refl) (_ ∷ nzms) =
+  ≤-trans (≤-reflexive (sym (*-identityʳ n)))
```
Comment (JacquesCarette) [inline src/Data/List/Properties.agda:851]: I think using `≤-Reasoning` would make this proof (and the one below) much clearer.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]

File: src/Data/List/Properties.agda [hunk 2]
```diff
@@ -842,6 +842,19 @@ sum-++ (x ∷ xs) ys = begin
 ∈⇒∣product {n} {n ∷ ns} (here  refl) = divides (product ns) (*-comm n (product ns))
 ∈⇒∣product {n} {m ∷ ns} (there n∈ns) = ∣n⇒∣m*n m (∈⇒∣product n∈ns)
 
+nonZero-product : ∀ {ns} → All NonZero ns → NonZero (product ns)
```
Comment (jamesmckinna) [inline src/Data/List/Properties.agda:845]: This proof was described [here](https://github.com/agda/agda-stdlib/pull/1969#discussion_r1435032512) in the course of reviewing @Taneb 's #1969 ...
... and I think is a bit cleaner wrt the use of instance inference?

File: src/Data/List/Properties.agda (hunk 1 above)
Comment (jamesmckinna) [reply src/Data/List/Properties.agda:851]: It might also permit a proof in which you don't force evaluation of the proof in the `here` pattern to be `refl`? I haven't checked this, though!

**Comment by jamesmckinna** [comment]
And: `CHANGELOG` entries please!

File: src/Data/List/Properties.agda [hunk 3]
```diff
@@ -842,6 +842,19 @@ sum-++ (x ∷ xs) ys = begin
...
+nonZero-product [] = _
+nonZero-product (nzn ∷ nzns) = m*n≢0 _ _ ⦃ nzn ⦄ ⦃ nonZero-product nzns ⦄
+
+∈⇒≤product : ∀ {n ns} → n ∈ ns → All NonZero ns → n ≤ product ns
+∈⇒≤product {n} {n ∷ ms} (here  refl) (_ ∷ nzms) =
+  ≤-trans (≤-reflexive (sym (*-identityʳ n)))
+          (*-monoʳ-≤ n (>-nonZero⁻¹ (product ms)))
+  where instance _ = nonZero-product nzms
+∈⇒≤product {n} {m ∷ ms} (there n∈ns) (nz ∷ nzns) =
+  ≤-trans (≤-reflexive (sym (+-identityʳ n)))
```
Comment (jamesmckinna) [inline src/Data/List/Properties.agda:855]: [DRY] repetition here of a sub-term/proof you usein the previous clause... lift out as a lemma, or find the relevant thing if it exists, in `Data.Nat.Properties`?

File: src/Data/List/Properties.agda (hunk 1 above)
Comment (dolio) [reply src/Data/List/Properties.agda:851]: I can do this, but I don't know if it's cleaner. The syntax for the cleanest version conflicts with the `≡-Reasoning` that's opened earlier in the module, so I have to redefine the equation part of the syntax to use it. Does that still sound worth it?

Comment (jamesmckinna) [reply src/Data/List/Properties.agda:851]: Alternatively, use `m≤m*n` in the`here` branch, and `m≤n*m` in the `there` branch...?

As for the global opening of a reasoning module, and clashing with a local use of another, it's a fair point... we would now advise against it in the style guide, but this module carries way too much baggage (and for `Data.Nat.Properties` even more so). but I think the above suggestions finesse all this...?

File: src/Data/List/Properties.agda (hunk 3 above)
Comment (jamesmckinna) [reply src/Data/List/Properties.agda:855]: See above

File: src/Data/List/Properties.agda (hunk 1 above)
Comment (dolio) [reply src/Data/List/Properties.agda]: Okay, yeah, those do the job well.

File: CHANGELOG.md [hunk 4]
```diff
@@ -48,6 +48,12 @@ New modules
 Additions to existing modules
 -----------------------------
 
+* In `Data.List.Properties`:
+  ```agda
+  nonZero-product : All NonZero ns → NonZero (product ns)
```
Comment (jamesmckinna) [inline CHANGELOG.md:53]: I think that `product≢0 ` is a better name, for consistency with other `*≢0 ` lemmas in `Data.Nat.Properties`?

File: src/Data/List/Properties.agda (hunk 2 above)
Comment (jamesmckinna) [reply src/Data/List/Properties.agda:845]: And naming: see above?

File: src/Data/List/Properties.agda [hunk 5]
```diff
@@ -842,6 +842,27 @@ sum-++ (x ∷ xs) ys = begin
...
+  m≤m*n m (product ms)
+  where instance _ = nonZero-product nzms
+∈⇒≤product {n} {m ∷ ms} (there n∈ns) (nz ∷ nzns) = begin-ordered
+  n               ≤⟨ ∈⇒≤product n∈ns nzns ⟩
+  product ms      ≤⟨ m≤n*m (product ms) m ⟩
+  m * product ms  ∎-ordered
+  where
+  instance _ = nz
+  open ≤-Reasoning using (step-≤)
+    renaming ( begin_ to begin-ordered_ ; _∎ to _∎-ordered)
```
Comment (jamesmckinna) [inline src/Data/List/Properties.agda:863]: Oh dear, yes, that `renaming` is a bit heavy/unpleasant!
Would
```agda
renaming ( begin_ to begin-≤_ ; _∎ to _≤-∎)
```
be any better?

**Review by jamesmckinna — APPROVED** [review]
This seems fine as it is, but my nitpicks below might streamline things a bit, aesthetically at least?

File: src/Data/List/Properties.agda (hunk 1 above)
Comment (jamesmckinna) [reply src/Data/List/Properties.agda]: Maybe we should simply refactor `Data.Nat.Properties` to have lemmas of the form
```agda
m≤n⇒m≤o*n : {{NonZero o}} → m ≤ n → m ≤ o * n
m≤n⇒m≤n*o : {{NonZero o}} → m ≤ n → m ≤ n * o
```
and thereby localise all the `Nat`-based `≤-Reasoning` where it belongs... rather than in `Data.List.Properties`?

**Comment by jamesmckinna** [comment]
NB. It looks as though you have forked the main repo and then done this PR directly on *your* `master` branch`... *much* better to do PRs independently on separate branches off your `master`... as described in section 5 of `HACKING`...

File: CHANGELOG.md (hunk 4 above)
Comment (jamesmckinna) [reply CHANGELOG.md:53]: And that also means that [`Data.Nat.Primality`](https://github.com/agda/agda-stdlib/blob/0da5ba7629ca1a911958f155fbecf2cc85646c4a/src/Data/Nat/Primality.agda#L325-L330) can be trivially refactored to make use of this lemma...

File: src/Data/List/Properties.agda (hunk 5 above)
Comment (JacquesCarette) [reply src/Data/List/Properties.agda:863]: I agree that this is too heavyweight. Probably back to the `trans` version is going to be cleanest.

Comment (jamesmckinna) [reply src/Data/List/Properties.agda:863]: Or: as indicated above: localise the reasoning with `ℕ._≤_` and `ℕ._*_` in `Data.Nat.Properties`, and then appeal to it when proving properties of `Data.List.Base.product` in `Data.List.Properties`... noting that the lemmas I propose above are 'hidden' appeals to transitivity on top of the existing `m≤m*n` etc...

File: src/Data/List/Properties.agda (hunk 1 above)
Comment (dolio) [reply src/Data/List/Properties.agda]: Okay, I'll try that out.

Comment (dolio) [reply src/Data/List/Properties.agda]: Okay, I've updated to take this approach and I think address the other comments.

I also noticed that there were already `<` versions of these m-n-o lemmas that are special cases, so I replaced their implementation with just the `≤` one.

File: src/Data/Nat/Properties.agda [hunk 6]
```diff
@@ -1008,13 +1014,10 @@ m<m*n m@(suc m-1) n@(suc (suc n-2)) (s≤s (s≤s _)) = begin-strict
   m * n       ∎
 
 m<n⇒m<n*o : ∀ o .{{_ : NonZero o}} → m < n → m < n * o
-m<n⇒m<n*o {n = n} o m<n = <-≤-trans m<n (m≤m*n n o)
+m<n⇒m<n*o = m≤n⇒m≤n*o
```
Comment (jamesmckinna) [inline src/Data/Nat/Properties.agda:1017]: Nice!

File: src/Data/Nat/Properties.agda [hunk 7]
```diff
@@ -1008,13 +1014,10 @@ m<m*n m@(suc m-1) n@(suc (suc n-2)) (s≤s (s≤s _)) = begin-strict
...
 
 m<n⇒m<o*n : ∀ {m n} o .{{_ : NonZero o}} → m < n → m < o * n
-m<n⇒m<o*n {m} {n} o m<n = begin-strict
-  m     <⟨ m<n⇒m<n*o o m<n ⟩
-  n * o ≡⟨ *-comm n o ⟩
-  o * n ∎
+m<n⇒m<o*n = m≤n⇒m≤o*n
```
Comment (jamesmckinna) [inline src/Data/Nat/Properties.agda:1020]: Even better!

File: src/Data/List/Properties.agda [hunk 8]
```diff
@@ -842,25 +842,20 @@ sum-++ (x ∷ xs) ys = begin
...
-  where instance _ = nonZero-product nzms
-∈⇒≤product {n} {m ∷ ms} (there n∈ns) (nz ∷ nzns) = begin-ordered
-  n               ≤⟨ ∈⇒≤product n∈ns nzns ⟩
-  product ms      ≤⟨ m≤n*m (product ms) m ⟩
-  m * product ms  ∎-ordered
-  where
-  instance _ = nz
-  open ≤-Reasoning using (step-≤)
-    renaming ( begin_ to begin-ordered_ ; _∎ to _∎-ordered)
+  where instance _ = product≢0 nzms
```
Comment (jamesmckinna) [inline src/Data/List/Properties.agda:855]: Implicit argument `n` is never used, and you introduce an artificial change-of-name with `m`... much better to simply use `{ns = n ∷ ns}` as the first binding...
```agda
∈⇒≤product {ns = n ∷ ns} (_ ∷ nzns) (here refl) =
  m≤m*n n (product ns)
  where instance _ = product≢0 nzns
```

File: src/Data/List/Properties.agda [hunk 9]
```diff
@@ -842,25 +842,20 @@ sum-++ (x ∷ xs) ys = begin
...
+∈⇒≤product {n} {m ∷ ms} (nz ∷ nzns) (there n∈ns) =
+  m≤n⇒m≤o*n m (∈⇒≤product nzns n∈ns)
+  where instance _ = nz
```
Comment (jamesmckinna) [inline src/Data/List/Properties.agda:858]: Similarly:
```suggestion
∈⇒≤product {ns = n ∷ _} (nz ∷ nzns) (there n∈ns) =
  m≤n⇒m≤o*n n (∈⇒≤product nzns n∈ns)
  where instance _ = nz
```

**Comment by jamesmckinna** [comment]
Thanks for a very nice first PR! (NB better to fix up your `git` branches before the next one... ;-))
A couple of final refinements, and we should be good to go! 
@JacquesCarette are you happy with the refactoring?

**Review by JacquesCarette — APPROVED** [review]

File: src/Data/List/Properties.agda [hunk 10]
```diff
@@ -842,6 +842,22 @@ sum-++ (x ∷ xs) ys = begin
 ∈⇒∣product {n} {n ∷ ns} (here  refl) = divides (product ns) (*-comm n (product ns))
 ∈⇒∣product {n} {m ∷ ns} (there n∈ns) = ∣n⇒∣m*n m (∈⇒∣product n∈ns)
 
+product≢0 : ∀ {ns} → All NonZero ns → NonZero (product ns)
+product≢0 [] = _
+product≢0 {n ∷ ns} (nzn ∷ nzns) = m*n≢0 n (product ns)
+  where instance
+    _ = nzn
+    _ = product≢0 nzns
```
Comment (MatthewDaggitt) [inline src/Data/List/Properties.agda:850]: Sorry to unmerge, but would writing this line as:
```agda
product≢0 {n ∷ ns} (n≢0 ∷ ns≢0) = m*n≢0 {{n≢0}} {{product≢0 ns≢0}} 0 n (product ns)
```
be much cleaner than the four lines we currently have? Same with the proof below.

Comment (MatthewDaggitt) [reply src/Data/List/Properties.agda:850]: Also marginally more efficient as Agda doesn't have to do instance search...

Comment (jamesmckinna) [reply src/Data/List/Properties.agda:850]: @MatthewDaggitt I think on reflection that you're right, and my apologies to @dolio for my earlier suggestion(s) which led to the changes towards this more verbose style. 

I'm not necessarily convinced that inlining explicit instances is more readable, but for sure it spares the checker the cost of the (otherwise quite narrow, because local/immediate) search.
